US06630600B1
3-(4-Benzyloxyphenyl)-2-methoxypropanoic acid methyl ester (1.91 g; 6.36 mmole) was hydrogenated in methanol (30 ml) using Pd/C (5%, wet, 0.9 g) as catalyst. The mixture was filtered through celite and the filtrate was evaporated in vacuo to give 1.16 g (yield 87%) of 3-(4-hydroxyphenyl)-2-methoxypropanoic acid methyl ester.

reactant | 3-(4-Benzyloxyphenyl)-2-methoxypropanoic acid methyl ester | 6.36 mmole, 1.91 g | COC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)OC)=O | C18H20O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 0.9 g | [Pd] | Pd
product | 3-(4-hydroxyphenyl)-2-methoxypropanoic acid methyl ester | 1.16 g, yield 87% | COC(C(CC1=CC=C(C=C1)O)OC)=O | C11H14O4
